US08980904B2
4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylic acid (300 mg, 0.88 mmol) and 4-fluorobenzylamine (165 mg, 1.32 mmol) were dissolved in 20 mL THF, DIEA (0.45 mL, 2.64 mmol) was added dropwise, HATU (401 mg, 1.06 mmol) was added under ice-water-bath, reacted at room temperature for 4 h, to the reaction solution was added 100 mL of water, then extracted with dichloromethane, dried with anhydrous sodium sulfate, dried by rotation, the solid was separated with silica gel separation (dichloromethane:methanol=100:1) to obtain a white solid 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(4-fluorobenzyl)pyrimidine-5-carboxamide 206 mg, yield 52%.

reactant | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylic acid | 0.88 mmol, 300 mg | ClC=1C=C(COC2=NC(=NC=C2C(=O)O)SC)C=CC1OC | C14H13ClN2O4S
reactant | 4-fluorobenzylamine | 1.32 mmol, 165 mg | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | DIEA | 2.64 mmol, 0.45 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.06 mmol, 401 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(4-fluorobenzyl)pyrimidine-5-carboxamide | 206 mg, yield 52% | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=CC=C(C=C2)F)SC)C=CC1OC | C21H19ClFN3O3S
